US04039551
According to the procedure of Preparation 1, 7-methylthio-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepine-2-thione is reacted with hydrazine hydrate in methanol to give 7-methylthio-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl hydrazine.

reactant | 7-methylthio-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepine-2-thione | CSC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C15H13N3S2
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 7-methylthio-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl hydrazine | CSC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C15H15N5S
